US04609650
16β-Ethyl-17β-bromoacetoxy-4-estren-3-one
In 40 ml of dichloromethane are dissolved 4.5 g of 16β-ethyl-17β-hydroxy-4-estren-3-one and 1.8 g of N,N-dimethylaniline and, with ice-cooling and stirring, a solution of 3.5 g of bromoacetyl bromide in 5 ml of dichloromethane is added dropwise to the above solution. The mixture is stirred with ice-cooling for 30 minutes and at room temperature (15°-25° C.) for 5 hours, and 200 ml of ethyl acetate is added. The mixture is washed with 10% cold sulfuric acid (three times), water and saturated aqueous sodium chloride solution in that order and dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure. The residue is recrystallized from diisopropyl ether-petroleum ether (1:1) to give 4.7 g of the above-identified compound as colorless crystals.

reactant | 16β-ethyl-17β-hydroxy-4-estren-3-one | 4.5 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O | C20H30O2
reactant | N,N-dimethylaniline | 1.8 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | 3.5 g | BrCC(=O)Br | C2H2Br2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 16β-Ethyl-17β-bromoacetoxy-4-estren-3-one | 4.7 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
